US07220744B2
a) 2-piperazin-1-yl-thiazole-5-carbonitrile
Prepared in analogy to example 2 (b) from 2-chloro-1,3-thiazole-5-carbonitrile and piperazine. The crude material was purified by chromatography (SiO2, methanol/dichloromethane) to yield the title compound as a white crystalline solid (yield 86%). MS (m/e): 194.9 (M+H+, 100%).

reactant | 2-chloro-1,3-thiazole-5-carbonitrile | ClC=1SC(=CN1)C#N | C4HClN2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-piperazin-1-yl-thiazole-5-carbonitrile | yield 86% | N1(CCNCC1)C=1SC(=CN1)C#N | C8H10N4S
